US08022063B2
Ethyl 4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxyacetate.
Prepared from (5-bromo-2-hydroxy-phenyl)-(1-phenyl-1H-pyrazol-4-yl)ketone and ethyl bromoacetate according to GP2 to give 215 mg (100%) white crystals. The product was used without further purification: LC/MS (an 10p8): Rt 6.15 min, m/z 429 [M+H]+; 1H NMR (CDCl3): δ 1.26 (t, J=7.1 Hz, 3H), 4.24 (q, J=7.1 Hz, 2H), 4.64 (s, 2H), 6.72 (d, J=8.9 Hz, 1H), 7.34 (m, 1H), 7.46 (m, 2H), 7.53 (dd, J=8.9, 2.5 Hz, 1H), 7.59 (d, J=2.5 Hz, 1H), 7.73-7.78 (m, 2H), 8.17 (s, 1H), 8.58 (s, 1H); 13C NMR (CDCl3): δ14.3, 61.9, 65.5, 114.0, 114.5, 119.8, 125.3, 127.7, 129.8, 131.8, 132.3, 132.7, 134.6, 139.6, 142.7, 154.1, 168.5, 186.9.

reactant | (5-bromo-2-hydroxy-phenyl)-(1-phenyl-1H-pyrazol-4-yl)ketone | BrC=1C=CC(=C(C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1)O | C16H11BrN2O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl 4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxyacetate | 215 mg, 100% | BrC1=CC(=C(OCC(=O)OCC)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C20H17BrN2O4
